datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:71]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:72])[N+:81](=[O:82])[O-:92])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10=20;20,21=21,22;22,23=23"
"[CH:10]1=[CH:11][CH:12]=[CH:13][S:14]1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([CH:10]1[CH:11]=[CH:12][CH:13]=[S+:14]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20;12,13=11,12;14=13,14"
"C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.N#C[C:20]1([H:10])[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([N+:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CCC[C:20](C)=[O:21].C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CCC[C:20](C)([H:10])[O-:21].C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21"
"CC(C)(C)O/[C:11](=[CH:10]/[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)[O-:12].CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23]>>CC(C)[O:33][C:22](=[N:21][N:20]([CH:10]([C:11](OC(C)(C)C)=[O:12])[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10].[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11].[O-][N+:22](=[C:21]1[CH:20]([H:10])N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>CC[O:34][C:32]([C:21]([CH:20]([C:10](C)([C:11]#[N:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].F[C:20]1([H:10])[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C[NH2:10].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>C[NH2+:10][CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.[N-]=[N+]=NC[C@@H]1CCC[NH:10]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[C@H]2CN=[N+]=[N-])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]2)[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)=[CH:22]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>C[C+:13]1[CH:12]=[CH:11][CH:10]([F:20])[CH:61]=[CH:62]1.ClC[N+]12CC[N:21](CC1)CC2 10,11=10,20;12,13=11,12;20,21=21"
"CO[C:12]1=[C:13]([B-](F)(F)F)[S:14][CH:10]=[CH:11]1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:12]1=[CH:11][CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[S+:14]=[C:13]1[B-](F)(F)F 10,11=10,20;12,13=11,12;14=13,14"
